US06310107B1
2-(N,N-Dimethylamino)methyl-7-methoxytetralin Hydrochloride
1 N Sodium hydroxide was added to 2-(N,N-dimethylamino)methyl-7-methoxy-1-tetralone hydrochloride (8.46 g) to convert it into a free compound, which was extracted with ethyl acetate. The extract was dried, and then concentrated. Sodium borohydride (2.32 g) was added to a methanol solution (150 ml) of the resulting residue, with cooling with ice, which was then stirred at room temperature for 12 hours. Water was added to the reaction mixture, which was concentrated under reduced pressure, and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried, and concentrated. Concentrated hydrochloric acid (6.4 g) and 10% palladium-carbon (0.7 g) were added to an ethanol solution (100 ml) of the resulting residue, which was thus catalytically reduced under a hydrogen pressure of 5 atmospheres at 60° C. for 8 hours. The catalyst was removed from the reaction mixture through filtration, and the filtrate was concentrated. The residue was recrystallized from methanol-ethyl acetate to obtain the entitled compound (6.53 g).

reactant | Sodium hydroxide | 1 N | [OH-].[Na+]
reactant | 2-(N,N-dimethylamino)methyl-7-methoxy-1-tetralone hydrochloride | 8.46 g | Cl.CN(C)CC1C(C2=CC(=CC=C2CC1)OC)=O
product | 2-(N,N-Dimethylamino)methyl-7-methoxytetralin Hydrochloride | 6.53 g | Cl.CN(C)CC1CC2=CC(=CC=C2CC1)OC | InChI=1S/C14H21NO.ClH/c1-15(2)10-11-4-5-12-6-7-14(16-3)9-13(12)8-11;/h6-7,9,11H,4-5,8,10H2,1-3H3;1H
